US04526724
20 grams of vanadium trichloride, 32.8 grams anhydrous aluminum chloride, 3.2 grams of aluminum powder and 500 milliliters of benzene were added to a reaction vessel equipped with a stirrer, a reflux condenser and a thermometer. The reaction mixture was vigorously stirred and refluxed for about thirty hours in an inert atmosphere or argon, then cooled to room temperature. To the resulting mixture were then added, drop-wise, 30 milliliters of freshly-distilled tetrahydrofuran, followed by the addition of a slurry of activated magnesium prepared by reacting 45 grams of magnesium, 80 milliliters of tetrahydrofuran and 16 milliliters of 1,2-dichloroethane. The mixture was refluxed in an atmosphere of argon for about three days, cooled to room temperature, and the volume reduce to about 100 milliliters. Then, 200 milliliters of heptane were added, the mixture stirred, and the solvent removed until practically dry. An additional amount of heptane was then added, the mixture stirred and filtered. The residue was washed with benzene portions, the washings combined with the filtrate, and the solvent removed to yield zero valent dibenzene vanadium as a crystalline solid having infrared spectrum peaks at 988 cm-1, 957 cm-1, and 742 cm-1, which are consistent with those of the dibenzene vanadium compound obtained by the known process.

reactant | vanadium trichloride | 20 grams | [Cl-].[Cl-].[Cl-].[V+3]
reactant | aluminum chloride | 32.8 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | aluminum | 3.2 grams | [Al] | Al
reactant | magnesium | [Mg] | Mg
reactant | magnesium | 45 grams | [Mg] | Mg
reactant | heptane | 200 milliliters | CCCCCCC | C7H16
solvent | 1,2-dichloroethane | 16 milliliters | ClCCCl | C2H4Cl2
solvent | tetrahydrofuran | 80 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 milliliters | O1CCCC1 | C4H8O
solvent | benzene | 500 milliliters | C1=CC=CC=C1 | C6H6
product | dibenzene vanadium | [V].C1=CC=CC=C1.C1=CC=CC=C1 | InChI=1S/2C6H6.V/c2*1-2-4-6-5-3-1;/h2*1-6H;
